US04523030
3.0 g of 4-(α-hydroxybenzyl)-5-hydroxybenzocyclobutene-1-carboxylic acid are dissolved in 30 ml of dichloromethane and over a period of 10 minutes, while stirring, 30 g of pyridinium dichromate in 100 ml of dichloromethane are added dropwise thereto. Stirring is then carried out for 7 hours at room temperature, and the mixture is decanted off from the black residue, filtered over silica gel, concentrated to dryness by evaporation and crystallised from ether/hexane. 4-benzoyl-5-hydroxybenzocyclobutene-1-carboxylic acid is obtained having a melting point of 167°-169°.

reactant | 4-(α-hydroxybenzyl)-5-hydroxybenzocyclobutene-1-carboxylic acid | 3.0 g | OC(C1=CC=CC=C1)C1=CC2=C(C(=C2)C(=O)O)C=C1O | C16H12O4
reactant | pyridinium dichromate | 30 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-benzoyl-5-hydroxybenzocyclobutene-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC2=C(C(=C2)C(=O)O)C=C1O | C16H10O4
